US06441017B1
Step C: Methyl [1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]acetate
A mixture of methyl [1-(triphenylmethyl)-1H-imidazol-4-yl]acetate, as described above in Step B, (536 mg, 1.40 mmol) and 4-cyano-3-fluorobenzyl bromide, as described in Example 1, Step D, (300 mg, 1.40 mmol) in acetonitrile (3 mL) was heated to 50° C. for 2 hours. The mixture was allowed to cool, and the solid collected by filtration. The acetonitrile filtrate was concentrated in vacuo to a volume of approximately 1 mL and then reheated to 50° C. for 2 hours, cooled, and the solid removed by filtration. The two crops of precipitated imidazolium salts were combined in MeOH (30 mL) and the solution was heated to reflux for 2 hours, then concentrated in vacuo. The residue was partitioned between saturated aqueous NaHCO3 (20 mL) and CHCl3 (30 mL). The aqueous layer was extracted further with CHCl3 (2×15 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with CHCl3—3% MeOH—0.3% NH4OH to CHCl3—5% MeOH—0.5% NH4OH to yield the titled product as a white solid.

reactant | methyl [1-(triphenylmethyl)-1H-imidazol-4-yl]acetate | C1(=CC=CC=C1)C(N1C=NC(=C1)CC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
reactant | 4-cyano-3-fluorobenzyl bromide | C(#N)C1=C(C=C(CBr)C=C1)F | C8H5BrFN
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Methyl [1-(4-Cyano-3-fluorobenzyl)-1H-imidazol-5-yl]acetate | C(#N)C1=C(C=C(CN2C=NC=C2CC(=O)OC)C=C1)F | C14H12FN3O2
